US04231930
To a solution of 2',5-dichloro-2-(5-carbobenzoxyaminomethyl-3-chloromethyl-1,2,4-triazol-4-yl)benzophenone (12.8 g) in ethanol (600 ml) is added a solution of sodium thiosulfate (7.2 g) in water (200 ml), and the resultant mixture is refluxed for 1.5 hours. The reaction mixture is evaporated under reduced pressure to remove the solvent, whereby 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-mercaptomethyl-1,2,4-triazol-4-yl)benzophenone thiosulfate monosodium salt is obtained. This substance is dissolved in water (600 ml), mixed with thiol type thiamine sodium salt (10.8 g) and stirred overnight. The colorless precipitate is filtered, washed with water and dissolved in a mixture of chloroform and methanol. The organic layer is dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue is chromatographed on a column of silica gel, which is eluted with ethyl acetate to give bis[4-{2-(2-chlorobenzoyl)-4-chlorophenyl}-5-carbobenzoxyaminomethyl-1,2,4-triazol-3-methyl]disulfide (7.4 g) as crystals melting at 113°-115° C. This compound is recrystallized from ethyl acetate/n-hexane to give colorless crystals.

reactant | 2',5-dichloro-2-(5-carbobenzoxyaminomethyl-3-chloromethyl-1,2,4-triazol-4-yl)benzophenone | 12.8 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CNC(=O)OCC1=CC=CC=C1)CCl)=O | C25H19Cl3N4O3
reactant | sodium thiosulfate | 7.2 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
product | 2',5-dichloro-2-(3-carbobenzoxyaminomethyl-5-mercaptomethyl-1,2,4-triazol-4-yl)benzophenone thiosulfate monosodium salt | [Na+].S(=S)(=O)([O-])O.ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)N1C(=NN=C1CS)CNC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C25H20Cl2N4O3S.Na.H2O3S2/c26-17-10-11-21(19(12-17)24(32)18-8-4-5-9-20(18)27)31-22(29-30-23(31)15-35)13-28-25(33)34-14-16-6-2-1-3-7-16;;1-5(2,3)4/h1-12,35H,13-15H2,(H,28,33);;(H2,1,2,3,4)/q;+1;/p-1
